US05070089
In 30 ml of methylene chloride was dissolved 3.36 g (20 mmol.) of 2,3-dimethoxybenzyl alcohol. Under chilling with ice, to the solution was dropwise added a solution of 1.6 ml (22 mmol.) of thionyl chloride in 5 ml of methylene chloride for 10 min. The mixture was stirred at the same temperature and then placed under reduced pressure to distill off the solvent, to give 3.71 g of 2,3-dimethoxybenzyl chloride as a brown oil, yield 99.5%.

reactant | 2,3-dimethoxybenzyl alcohol | 20 mmol, 3.36 g | COC1=C(CO)C=CC=C1OC | C9H12O3
reactant | thionyl chloride | 22 mmol, 1.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dimethoxybenzyl chloride | 3.71 g, yield 99.5% | COC1=C(CCl)C=CC=C1OC | C9H11ClO2
